US06417200B1
A) N-(4-methoxybenzoyl)-2-nitroaniline
Using a procedure similar to Example 1B except starting with 2-nitroaniline and p-anisoyl chloride, the title compound was obtained as a solid (98%); MS(FD): 272.0.

reactant | 2-nitroaniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | N-(4-methoxybenzoyl)-2-nitroaniline | COC1=CC=C(C(=O)NC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C14H12N2O4
